US04451476
The intermediate 5-(2-chloro-4-methoxyphenoxy)pentyl bromide was prepared from the potassium salt of 2-chloro-4-methoxyphenol and 1,5-dibromopentane.

reactant | potassium | [K] | K
reactant | 2-chloro-4-methoxyphenol | ClC1=C(C=CC(=C1)OC)O | C7H7ClO2
reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
product | 5-(2-chloro-4-methoxyphenoxy)pentyl bromide | ClC1=C(OCCCCCBr)C=CC(=C1)OC | C12H16BrClO2
